US08735402B2
(b) Benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate
At 0° C., 179 mg of triphenylphosphine and 107 μl of diethyl azodicarboxylate were initially charged in 4.5 ml of tetrahydrofuran, and the mixture was stirred for 15 min. 200 mg of 4-[5-(2-fluorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenol, 95 μl of triethylamine and 141 mg of benzyl 3-hydroxycyclobutanecarboxylate were then added to the reaction, and the reaction was stirred under argon, initially at room temperature for 3 h. Another 179 mg of triphenylphosphine and 107 μl of diethyl azodicarboxylate were then added, and the reaction was stirred for 12 h. For work-up, the reaction was concentrated and the resulting residue was purified by flash chromatography (silica gel, heptane/ethyl acetate). This gave 216 mg (70%) of the title compound.

reactant | triphenylphosphine | 179 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 107 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[5-(2-fluorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenol | 200 mg | FC1=C(OC=2N=CC3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)C=CC=C1 | C19H14FN3O3
reactant | benzyl 3-hydroxycyclobutanecarboxylate | 141 mg | OC1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H14O3
reactant | triphenylphosphine | 179 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 107 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 95 μl | C(C)N(CC)CC | C6H15N
product | Benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate | FC1=C(OC=2N=CC3=C(N2)OC(=N3)C3=CC(=C(OC2CC(C2)C(=O)OCC2=CC=CC=C2)C(=C3)C)C)C=CC=C1 | C31H26FN3O5
